US03987160
To a solution of sodium ethoxide in ethanol, prepared from sodium (47.5 g.) and dry ethanol (675 ml.), was added, slowly with cooling and stirring, ethyl cyanoacetate (74 ml.), followed by a solution of 3-methoxypropionamidine hydrochloride (96 g.) in dry ethanol (173ml.). The mixture was stirred and heated under reflux for 40 hours, evaporated to dryness in vacuo, the residue triturated with water (67.5 ml.), acidified to pH 6 with concentrated hydrochloric acid, left to stand at 0° C. overnight and filtered. The aqueous filtrate was extracted continuously with ethyl acetate for 3 days and the extract dried and evaporated to dryness to give crude 4-amino-2-(2-ethoxyethyl)pyrimid-6-one (11.38 g.), m.p. 167°-170° C., sufficiently pure for use in the next stage. A sample was purified by chromatography on silica gel, followed by recrystallisation from ethanol, to give pure 4-amino-2-(2-ethoxyethyl)pyrimid-6-one, m.p. 191°-194° C.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 47.5 g | [Na] | Na
reactant | ethyl cyanoacetate | 74 ml | C(#N)CC(=O)OCC | C5H7NO2
reactant | 3-methoxypropionamidine hydrochloride | 96 g | Cl.COCCC(=N)N
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 173ml | C(C)O | C2H6O
solvent | ethanol | 675 ml | C(C)O | C2H6O
product | 4-amino-2-(2-ethoxyethyl)pyrimid-6-one | NC=1N=C(NC(C1)=O)CCOCC | C8H13N3O2
